US07279580B2
2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol was coupled to 3-(5-bromo-2-fluorophenoxymethyl)-2-methyl-2H-[1,2,4]triazole as described in Example 6 to give 2-{8-fluoro-3-[4-fluoro-3-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)phenyl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol as an off-white solid (169 mg, 43%): δH (400 MHz, d6-DMSO) 1.58 (6H, d, J 1), 3.94 (3H, s), 5.53 (2H, s), 5.55 (1H, s), 7.21-7.29 (2H, m), 7.44 (1H, dd, J 11 and 9), 7.68 (1H, dd, J 8 and 2), 7.76 (1H, s), 7.98 (1H, s), 8.42 (1H, d, J 7); m/z (ES+) 400 [MH+].

reactant | 2-(8-Fluoroimidazo[1,2-α]pyridin-7-yl)propan-2-ol | FC=1C=2N(C=CC1C(C)(C)O)C=CN2 | C10H11FN2O
reactant | 3-(5-bromo-2-fluorophenoxymethyl)-2-methyl-2H-[1,2,4]triazole | BrC=1C=CC(=C(OCC=2N(N=CN2)C)C1)F | C10H9BrFN3O
product | 2-{8-fluoro-3-[4-fluoro-3-(2-methyl-2H-[1,2,4]triazol-3-ylmethoxy)phenyl]imidazo[1,2-α]pyridin-7-yl}propan-2-ol | 169 mg, 43% | FC=1C=2N(C=CC1C(C)(C)O)C(=CN2)C2=CC(=C(C=C2)F)OCC=2N(N=CN2)C | C20H19F2N5O2
